US09340546B2
To 2-methyl-1-(3-nitro-4-pyridyl)piperazine in DMF (1.5 mL of 0.3 M, 0.4500 mmol) at 0° C. was added NaH (18.00 mg, 0.4500 mmol). The reaction was stirred for 10 mins then MeI (60.68 mg, 26.61 μL, 0.4275 mmol) was added. The reaction mixture was stirred for 4 hours at RT and quenched by the addition of water. The crude was loaded onto a MeOH pre-washed SCX column, rinsed with MeOH and the product was released with methanolic ammonia. The ammonia extracts were concentrated under reduced pressure. The residue was purified by column chromatography eluting with 1-15% MeOH:DCM to yield 2,4-dimethyl-1-(3-nitropyridin-4-yl)piperazine. MS (ES+) 237.2.

reactant | 2-methyl-1-(3-nitro-4-pyridyl)piperazine | CC1N(CCNC1)C1=C(C=NC=C1)[N+](=O)[O-] | C10H14N4O2
reactant | DMF | 0.4500 mmol, 0.3 M, 1.5 mL | CN(C)C=O | C3H7NO
reactant | NaH | 0.4500 mmol, 18.00 mg | [H-].[Na+]
reactant | MeI | 0.4275 mmol, 26.61 μL, 60.68 mg | CI | CH3I
product | 2,4-dimethyl-1-(3-nitropyridin-4-yl)piperazine | CC1N(CCN(C1)C)C1=C(C=NC=C1)[N+](=O)[O-] | C11H16N4O2
